US08071593B2
Preparation of methyl 3-(5-methylpyrimidin-2-yl)benzoate
2.41 g (10 mmol) of methyl 3-carbamimidoylbenzoate acetate are suspended in 40 ml of methanol, 1.31 ml (11 mmol) of 3-ethoxymethacrolein and 2.04 ml of 30% sodium methoxide in methanol are added, and the mixture is stirred at 50° C. for 15 h. The reaction mixture is evaporated to dryness, and 100 ml of water are added. The precipitate formed is filtered off with suction and dried in vacuo. The crude product is reacted further without further purification; product: 1.65 g; ESI: 229 (M+H).

reactant | methyl 3-carbamimidoylbenzoate acetate | 10 mmol, 2.41 g | C(C)(=O)O.C(N)(=N)C=1C=C(C(=O)OC)C=CC1
reactant | 3-ethoxymethacrolein | 11 mmol, 1.31 ml | CCO/C=C(\C)/C=O | C6H10O2
reactant | sodium methoxide | 2.04 ml | C[O-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | methyl 3-(5-methylpyrimidin-2-yl)benzoate | CC=1C=NC(=NC1)C=1C=C(C(=O)OC)C=CC1 | C13H12N2O2
